US04477463
B. 4,5-Bis(4-methoxyphenyl)-1-methyl-2-trifluoromethyl-1H-pyrrole
In a pressure reaction vessel was placed 2.9 g (0.01 mole) of 2,3-bis(4-methoxyphenyl)-1-methyl-1H-pyrrole and 1.3 g (0.01 mole) of ethyl diisopropylamine. The vessel was cooled and evacuated, and 2.0 g (0.01 mole) of trifluoromethyl iodide was added. The mixture was heated at 150° for approximately 18 hours. The vessel was cooled and vented, and the contents rinsed out with methylene chloride. The methylene chloride solution was washed with water three times then dried and concentrated to give the crude product. This was purified by chromatography on 400 g silica gel, eluting with toluene, to give after recrystallization from hexane, 1.0 g (28%) of product as a white solid, m.p. 125°-126°.

reactant | 2,3-bis(4-methoxyphenyl)-1-methyl-1H-pyrrole | 0.01 mole, 2.9 g | COC1=CC=C(C=C1)C=1N(C=CC1C1=CC=C(C=C1)OC)C | C19H19NO2
reactant | ethyl diisopropylamine | 0.01 mole, 1.3 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | trifluoromethyl iodide | 0.01 mole, 2.0 g | FC(F)(F)I | CF3I
product | 4,5-Bis(4-methoxyphenyl)-1-methyl-2-trifluoromethyl-1H-pyrrole | COC1=CC=C(C=C1)C=1C=C(N(C1C1=CC=C(C=C1)OC)C)C(F)(F)F | C20H18F3NO2
